US08871753B2
Step C: tert-Butyl [5-(2-{3-[(2,5-dichloropyrimidin-4-yl)amino]phenyl}ethyl)pyridin-3-yl]carbamate
To a solution of tert-butyl {5-[2-(3-aminophenyl)ethyl]pyridin-3-yl}carbamate (0.50 g, 1.6 mmol) and 2,4,5-trichloropyrimidine (0.30 g, 1.6 mmol) in N,N-dimethylformamide (4 mL) was added potassium carbonate (0.43 g, 3.11 mmol). The resultant mixture was stirred overnight at room temperature. The reaction was quenched with water. EtOAc was added and the layers were separated. The aqueous layer was extracted with EtOAc once. The combined organic layers were washed with water and brine then dried (Na2SO4), filtered, and concentrated. The crude mixture was purified by silica gel column chromatography to give the desired product as a white powder (0.60 g, 82%). LCMS for C22H24Cl2N5O2 (M+H)+: m/z=460.1, 462.1.

reactant | tert-butyl {5-[2-(3-aminophenyl)ethyl]pyridin-3-yl}carbamate | 1.6 mmol, 0.50 g | NC=1C=C(C=CC1)CCC=1C=C(C=NC1)NC(OC(C)(C)C)=O | C18H23N3O2
reactant | 2,4,5-trichloropyrimidine | 1.6 mmol, 0.30 g | ClC1=NC=C(C(=N1)Cl)Cl | C4HCl3N2
reactant | potassium carbonate | 3.11 mmol, 0.43 g | C([O-])([O-])=O.[K+].[K+]
solvent | N,N-dimethylformamide | 4 mL | CN(C=O)C | C3H7NO
product | tert-Butyl [5-(2-{3-[(2,5-dichloropyrimidin-4-yl)amino]phenyl}ethyl)pyridin-3-yl]carbamate | 0.60 g, 82% | ClC1=NC=C(C(=N1)NC=1C=C(C=CC1)CCC=1C=C(C=NC1)NC(OC(C)(C)C)=O)Cl | C22H23Cl2N5O2
